### ISSUE TITLE
over-zealous `cases` code action

### ISSUE THREAD

**Issue by kbuzzard** [leanprover/std4#270]
This code
```
import Mathlib.Tactic

inductive Relation (n : ℕ) : ℕ → ℕ → Prop

example {x y z} (r : Relation x y z) : true := by
  cases r
```
followed by clicking the lightbulb and selecting "Generate an explicit pattern match for rcases" gives me the exciting output

```
example {x y z} (r : Relation x y z) : true := by
  cases r with
  | n => sorry
  | a._@.scratch._hyg.6 => sorry
  | a._@.scratch._hyg.10 => sorry
```

Examples of this showing up in the wild: [here](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/How.20to.20get.20the.20name.20of.20the.20inductive.20hypothesis/near/392699714), [here](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Nonsense.20autocomplete.20of.20.60cases.20with.60/near/391116492) (including MWE), [here](https://leanprover.zulipchat.com/#narrow/stream/113489-new-members/topic/.E2.9C.94.20How.20do.20I.20refer.20to.20hypothesis.20created.20by.20tactics.3F/near/390993766).
